US08486952B2
2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (Preparation H) was reacted as described in Preparation Hr with 1-cyclopropyl-2-methoxyethanamine to afford 2-chloro-N-(1-cyclopropyl-2-methoxyethyl)-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (Preparation Hw) as a mixture of 4 diasteriomers. LC-MS (M+H)+=362.1.

reactant | 2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)Cl | C13H9Cl2FN2
reactant | 1-cyclopropyl-2-methoxyethanamine | C1(CC1)C(COC)N | C6H13NO
product | 2-chloro-N-(1-cyclopropyl-2-methoxyethyl)-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)NC(COC)C2CC2 | C19H21ClFN3O
